US07250418B2
Preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-pyridin-2-ylpyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine but substituting 2-bromo pyridine provided the title compound as an amporphous solid: 1 H NMR (400 MHz, CDCl3) δ) 8.20, 7.50, 7.32, 7.28, 6.69, 6.53, 5.33, 4.92, 4.28, 4.05, 3.92–3.78, 3.58, 3.42, 2.73, 2.50, 1.33–1.25,1.16; HRMS (ESI) calcd for C25H29N5OCl2+H1 486.1827. found 486.1827.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C23H27Cl2N5OS
reactant | 2-bromo pyridine | BrC1=NC=CC=C1 | C5H4BrN
product | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-pyridin-2-ylpyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C1=NC=CC=C1)CC | C25H29Cl2N5O
